US09255074B2
Preparation of 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl methanesulfonate (Compound (5h))
To a stirred slurry of 5.0 g of 1-(3-tert-butyl-5-(6-hydroxynaphthalen-2-yl)-4-methoxyphenyl)pyrimidine-2,4(1H,3H)-dione (12.0 mmol, 1.0 equivalent) in 25 mL of N,N-dimethylacetamide was added 4.4 g of methanesulfonic anhydride (25 mmol, 2.1 equivalents). The solution was cooled in a water bath to keep the internal temperature below 30° C. during the addition of 8.5 mL of triethylamine (61 mmol, 5.1 equivalents). After stirring for 2.5 hours at room temperature, an additional 0.70 g of methanesulfonic anhydride (4 mmol, 0.3 equiv) was added to the mixture. The reaction mixture was quenched by the addition of 30 mL of water with stirring. The resultant heterogeneous mixture was dissolved in 150 mL of ethyl acetate, and the resultant solution was washed five times with 50 mL portions of 10 wt % aqueous sodium chloride. The organic solution was dried over sodium sulfate, the drying agent was filtered off and the organic solution was concentrated in vacuo. The resultant oil was solidified by holding in a refrigerator and purified by slurrying in 20 mL of ethyl acetate. The product was isolated by filtration, the wet cake was washed with ethyl acetate and dried in vacuo with heating at 50° C. The title compound was isolated as a white solid (4.5 g, 91% potent, 69% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.36 (d, J=1.4 Hz, 1H), 8.12 (s, 1H), 8.08 (d, J=9.1 Hz, 1H), 8.05 (d, J=8.7 Hz, 1H), 7.94 (d, J=2.3 Hz, 1H), 7.79-7.72 (m, 2H), 7.49 (dd, J=8.9, 2.4 Hz, 1H), 7.34 (d, J=2.6 Hz, 1H), 7.29 (d, J=2.7 Hz, 1H), 5.61 (dd, J=7.9, 1.9 Hz, 1H), 3.43 (s, 3H), 3.20 (s, 3H), 1.39 (s, 9H). 13C NMR (101 MHz, DMSO-d6) δ ppm 163.0 (C), 156.0 (C), 150.0 (C), 146.4 (C), 145.2 (CH), 143.0 (C), 135.9 (C), 134.0 (C), 133.6 (C), 131.9 (C), 131.3 (C), 130.0 (CH), 127.7 (CH), 127.6 (CH), 127.5 (CH), 126.7 (CH), 124.6 (CH), 121.3 (CH), 119.0 (CH), 101.1 (CH), 60.4 (CH3), 37.6 (CH3), 35.1 (C), 30.5 (CH3). LC-MS m/z 495.1 [M+H]+.

reactant | 1-(3-tert-butyl-5-(6-hydroxynaphthalen-2-yl)-4-methoxyphenyl)pyrimidine-2,4(1H,3H)-dione | 12.0 mmol, 5.0 g, 1.0 equivalent | C(C)(C)(C)C=1C=C(C=C(C1OC)C1=CC2=CC=C(C=C2C=C1)O)N1C(NC(C=C1)=O)=O | C25H24N2O4
reactant | methanesulfonic anhydride | 25 mmol, 4.4 g, 2.1 equivalents | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 61 mmol, 8.5 mL, 5.1 equivalents | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 4 mmol, 0.70 g, 0.3 equiv | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
product | 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl methanesulfonate | 69% yield | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC | C26H26N2O6S
